US07262185B2
To a solution of 4-fluoro-2-trifluoromethylbenzoic acid (7.00 g), N,O-dimethylhydroxylamine hydrochloride (4.26 g) and 1-hydroxybenzotriazole monohydrate (6.69 g) in DMF (100 ml) was added triethylamine (4.42 g). Then, catalytic amount of 4-(N,N-dimethylamino)pyridine was added to the mixture, 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (8.38 g) was added to the mixture and the mixture was stirred for 1 day under nitrogen atmosphere. Water was added to the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1), to give 1-[[[methoxy(methyl)amino]oxy]carbonyl]-4-methyl-2-(trifluoromethyl)benzene (8.07 g) as colorless oil.

reactant | 4-fluoro-2-trifluoromethylbenzoic acid | 7.00 g | FC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4F4O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.26 g | Cl.CNOC
reactant | 1-hydroxybenzotriazole monohydrate | 6.69 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 8.38 g | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | Water | O | H2O
solvent | triethylamine | 4.42 g | C(C)N(CC)CC | C6H15N
product | 1-[[[methoxy(methyl)amino]oxy]carbonyl]-4-methyl-2-(trifluoromethyl)benzene | 8.07 g | CON(OC(=O)C1=C(C=C(C=C1)C)C(F)(F)F)C | C11H12F3NO3
